US06316438B1
1-[9-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6-yl]-4-piperidinol
1-(9-Chloro-3-ethyl-3H-pyrazolo-[4′,3′:5,6]pyrido-[3,4-d]pyridazin-6-yl)-4-piperidinol (2.4 g, 7.2 mmol) and (3-chloro-4-methoxyphenyl)methylamine hydrogen chloride (7.5 g, 5 eq) were suspended in N-methylpyrrolidinone (20 mL) and diisopropylethylamine (5 eq) in a 100 mL pressure tube. The reaction tube was submerged in a preheated oil bath at 170° C. for 2 h. HPLC analysis showed complete consumption of starting material. The reaction was cooled to rt and diluted with EtOAc (250 mL). This solution was washed consecutively with water (200 mL×3) and brine (200 mL×2) and dried over sodium sulfate. The solvent was removed via evaporation under reduced pressure to afford a brown foam. Column chromatography of this foam using silica gel and dichloromethane-methanol (30:1) afforded the title compound as an orange solid (2.0 g, 60%): mp 109-110.5° C. The material was analyzed by HPLC and showed 95% purity: HPLC (YMC S5 ODS 4.6×50 mm column, 4 minute gradient-0% B to 100% B, 4 mL/min flow, solvent A: 10% MeOH-90% H2O-0.2% H3PO4, solvent B: 90% MeOH-10% H2O-0.2% H3PO4) retention time 3.22 minutes; LRMS (m/z) 468 (MH+).

reactant | 1-(9-Chloro-3-ethyl-3H-pyrazolo-[4′,3′:5,6]pyrido-[3,4-d]pyridazin-6-yl)-4-piperidinol | 7.2 mmol, 2.4 g | ClC=1C2=C(C(=NN1)N1CCC(CC1)O)C=NC1=C2C=NN1CC | C15H17ClN6O
reactant | (3-chloro-4-methoxyphenyl)methylamine hydrogen chloride | 7.5 g, 5 eq | Cl.ClC=1C=C(C=CC1OC)CN
reactant | diisopropylethylamine | 5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane methanol | ClCCl.CO
solvent | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
product | 1-[9-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6-yl]-4-piperidinol | 2.0 g, 60% | ClC=1C=C(C=CC1OC)CNC=1C2=C(C(=NN1)N1CCC(CC1)O)C=NC1=C2C=NN1CC | C23H26ClN7O2
